Name:  ___      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
"I took a lot of pills"
 
___ Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
History was noted from Dr.
___ consult note from ___, and psychiatry CL
notes in OMR, confirmed with patient and updated as relevant:

Briefly, the patient is a ___ year old freshman college student 
___) with no past medical or psychiatric history who
presented to the ___ ___ after reporting to an outpatient
psychiatrist that she attempted suicide three weeks ago.

The patient had an initial interview with Drs. ___ 
and
___ the morning of presentation and at that time
reported suicide attempt via overdose three weeks ago. The
patient reports she ingested unspecified muscle relaxants and
pain medication with the goal that this would end her life.

She notes that over the past two months she has been having
worsening depressive symptoms including poor sleep (difficulty
falling asleep and staying asleep), low energy, depressed mood,
appetite changes (alternating between lack of appetite and 
marked
increased in appetite leading to binge eating. She notes her
usual weight is 145lbs and she weighed 197lbs on ___, and
decreased concentration (which has affected her academic
performance. She notes she is usually an A+ student but recently
has earned C's).

These symptoms have occurred in the setting of multiple
psychosocial stressors including ongoing troubles with her 
father
(the two had previously been very close but the father does not
approve of the patient's choice in significant other), 
difficulty
balancing time between work and school, and recent car accident
(this occurred on the day of her overdose but she does not think
the accident itself was a trigger). When asked about the
relationship between these stressors and her depressive symptoms
and these stressors she notes that the two do exacerbate the
other but she does not think she would be depressed if these
stressors were not present.

On initial interview on the unit the patient denied suicidal
ideation (passive or active) as well as thoughts of self-harm.
When reflecting on her past suicide attempt she states this was
"ridiculous" and "stupid." She regrets making the attempt and is
happy she is alive. She does report that she wishes she was not
admitted. She elaborates that she is hopeful that her symptoms
will improve and thinks they will with treatment but she is also
disappointed in herself, stating that she wishes she could "fix"
everything on her own at home.
  
PSYCHIATRIC REVIEW OF SYSTEMS: As per HPI. Patient denied SI,
symptoms consistent with mania (including impulsivity, elevated
mood, and grandiosity. She notes she has rapid speech at
baseline), and symptoms consistent with psychosis (including
visual or auditory hallucinations, paranoia, ideas of reference,
and thought-broadcasting).
   
___ COURSE: The patient was calm and cooperative and did not
require restraints.
   
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Per Dr. ___
(___), confirmed with patient and updated as relevant:
- Hospitalizations: None.
- Current treaters and treatment: Had first appointment with Dr.
___.
- Medication and ECT trials: None
- Self-injury: One suicide attempt three weeks ago via 
overdosing
on unknown quantity of pills (she believes they were "muscle
relaxants" and/or pain medications. This occurred following
argument with father and boyfriend. Boyfriend monitored patient
after ingestion but did not seek treatment (he was unaware of 
how
to contact EMS).
- Harm to others: Denies current or past HI.
- Access to weapons: Denies.
  
PAST MEDICAL HISTORY: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Patient denies history of any medical illness. Previous notes
document history of childhood asthma.

 
Social History:
Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- B/R: ___. Moved to ___ ___ years ago, first to ___
and then to ___ in ___. Pt. was raised in ___ by her
paternal grandparents when her parents separated.
- Family: Has an uncle, sister and cousins still in ___. She has
another half-sister in ___.
- Relationship: Has known her current boyfriend (___) for
___ years. Have been together for one year.
- Residence: Lives in ___ with mother and ___. She and
___ would like to move out and get their own apt.
- Education: Currently attends ___, studying to be an 
___.
Because of her erratic work schedule, she is falling behind in
her schoolwork. She usually gets A+ and now has C-.
- Employment: ___
Family History:
 Per Dr. ___
(___), confirmed with patient and updated as relevant:
- Patient believes her mother has ___ but she is 
not
aware of any actual diagnosis being made.
 
Physical Exam:
Exam:
  Neurological:
     *Station and gait: normal station and gait
     *Tone and strength: moves all four extremities 
spontaneously
against gravity
      Movements: no adventitious movements noted
             

  Mental status: 
   *Appearance: Overweight Latina female  in no acute distress.
    Behavior: Cooperative with interview. Makes good eye 
contact.
   *Mood and Affect: "good" / Appears euthymic to dysthymic
   *Thought process: Linear, goal-oriented
   *Thought Content: Denies SI/HI/AVH
   *Judgment and Insight: Fair / Fair
   
  Cognitive:
     *Attention, *orientation, and executive function: Attentive
 to interview, oriented to context and history
     *Memory: Intact to history
     *Fund of knowledge: Appropriate
     *Speech: Regular rate, rhythm, and volume.
     *Language: Fluent ___
 
Pertinent Results:
___ 11:10AM   GLUCOSE-97 UREA N-13 CREAT-0.9 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-25 ANION GAP-16
___ 11:10AM   estGFR-Using this
___ 11:10AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:10AM URINE  HOURS-RANDOM
___ 11:10AM URINE  HOURS-RANDOM
___ 11:10AM URINE  UCG-NEGATIVE
___ 11:10AM URINE  GR HOLD-HOLD
___ 11:10AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:10AM   WBC-6.3 RBC-4.69 HGB-14.8 HCT-42.6 MCV-91 
MCH-31.6 MCHC-34.7 RDW-12.5 RDWSD-40.9
___ 11:10AM   NEUTS-58.4 ___ MONOS-6.5 EOS-2.9 
BASOS-0.5 IM ___ AbsNeut-3.66 AbsLymp-1.97 AbsMono-0.41 
AbsEos-0.18 AbsBaso-0.03
___ 11:10AM   PLT COUNT-225
___ 11:10AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:10AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 11:10AM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted and with 
access to sharps restricted.

2. PSYCHIATRIC:
#) ___ year old woman, freshman college student with no past 
medical or psychiatric history who presented to the ___ ___ 
after an attempted suicide (via ingestion) three weeks prior to 
admission. Patient endorsed a host of depressive ssx, including 
insomnia, depressed mood, anhedonia, suicidal ideation, low 
energy,decreased appetite and decreased concentration. 
Differential included Adjustment disorder with depressed ___, 
___ depressive disorder, and depressive episode of Bipolar 
affective disorder. No manic or psychotic symptoms were ever 
elicited. Patient was started on SSRI, referred to outpatient 
treaters, and coping skills training was provided for her 
feeling overwhelmed with school and work concurrently, therapy 
was provided in order to help the patient achieve insight into 
how limited coping skills and psychosocial factors (being 
overwhelmed with work and academics) lead to an impulsive 
suicidal act in the setting of a depressive episode, and 
supportive therapy was provided surrounding practical ways to 
decrease her level of stress secondary to psychosocial factors. 
She was discharged after a hospital course where she endorsed no 
thoughts of SI during her admission, denied AVH, and left in a 
positive mood with plan to engage with outpatient treaters and 
continue SSRI. 
Day of d/c MSE revealed a pleasant, smiling often young woman. 
speech: fluent
Mood/Affect: 'good'/brighter
TF:no LOA/TB
TC: no psychosis. denies SI/HI
Cognition: a and o x 3
J/I: fair

3. SUBSTANCE USE DISORDERS:
#) No significant history of substance use disorder

4. MEDICAL
#) No acute medical issues for hospitalization

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon known 
suicide attempt and depressed mood.  Modifiable risk factors 
were also addressed at that time. Antidepressant was started, 
the patient was referred to outpatient treaters, and coping 
skills training was provided.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with depressed mood
 
Discharge Condition:
Denies suicidal or homicidal ideas, denies auditory or visual 
hallucinations. Oriented to person, place, and time. 

 
Discharge Instructions:
You were hospitalized at ___ for depression with suicidal 
feelings.  We adjusted your medications, and you are now ready 
for discharge and continued treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___